US06329400B1
To a solution of diisopropylamine (2.28 g, 20.63 mmol) in THF (20 mL) cooled to 0° C. is added n-butyllithium (20.63 mmol, 2.5 M in hexanes) and the resulting solution is stirred at 0° C. or 0.5 h. The reaction mixture is cooled to −50° C. followed by slow addition of ethyl (3R)-3-hydroxyhexanoate (1.5 g, 9.38 mmol). After 0.5 h a solution of cinnamyl bromide (2.67 g, 14.06 mmol) in HMPA (2 mL) is added and the reaction mixture is allowed to warm to −20° C. and stirred for 16 h. The reaction mixture is quenched by addition 3 mL of saturated aqueous ammonium chloride solution, is poured into 20 mL of 1 N hydrochloric acid, and is extracted with two 50-mL portions of EtOAc. The combined organic layers are dried over magnesium sulfate, concentrated in vacuo, and purified by silica gel chromatography (elution with 25% EtOAc-hexanes) to afford ethyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxyhexanoate as a yellow oil (1.82 g, 70% yield).

reactant | diisopropylamine | 20.63 mmol, 2.28 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 20.63 mmol, 2.5 M | C(CCC)[Li]
reactant | ethyl (3R)-3-hydroxyhexanoate | 9.38 mmol, 1.5 g | O[C@@H](CC(=O)OCC)CCC | C8H16O3
reactant | cinnamyl bromide | 14.06 mmol, 2.67 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HMPA | 2 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | ethyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxyhexanoate | 1.82 g, 70% yield | C1(=CC=CC=C1)/C=C/C[C@@H](C(=O)OCC)[C@@H](CCC)O | C17H24O3
